US04025642
Following the procedures of Example 1, 4.0 g. (0.0204 mol) of 4-acetamido-2-nitrophenol (prepared by acetylation of the corresponding amine) is hydrogenated in a mixture of 150 ml. of ethanol, 3.3 ml. of concentrated hydrochloric acid and 0.5 g. of 10% palladium-on-carbon in a Parr apparatus at room temperature. Filtration of the reaction mixture gives a powder which is dissolved in a minimum amount of water and filtered. This aqueous solution of 4-acetamido-2-aminophenol hydrochloride is added to a mixture of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one (3.42 g., 0.0162 mol) and 1.36 g. (0.0162 mol) of sodium bicarbonate in 130 ml. of methanol. After 18 hours at reflux, the reaction mixture is filtered and the solid is recrystallized from dioxane-acetonitrile to give 3-[1-(5-acetamido-2-hydroxyphenylamino)ethylidene]-5-acetyl-4-hydroxy-2H-pyran-2,6(3H)-dione, m.p. 253°-254° C. (dec.).

reactant | 4-acetamido-2-nitrophenol | 0.0204 mol | C(C)(=O)NC1=CC(=C(C=C1)O)[N+](=O)[O-] | C8H8N2O4
reactant | hydrochloric acid | Cl | ClH
reactant | 4-acetamido-2-aminophenol hydrochloride | Cl.C(C)(=O)NC1=CC(=C(C=C1)O)N
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | 0.0162 mol, 3.42 g | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
reactant | sodium bicarbonate | 0.0162 mol | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 3-[1-(5-acetamido-2-hydroxyphenylamino)ethylidene]-5-acetyl-4-hydroxy-2H-pyran-2,6(3H)-dione | C(C)(=O)NC=1C=CC(=C(C1)NC(C)=C1C(OC(C(=C1O)C(C)=O)=O)=O)O | C17H16N2O7
